US07589200B2
In like manner to the preparation of N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine, 1,1-diphenyl methylamine and 2,4-dichloro-5-fluoropyrimidine were reacted to produce N2,N4-bis(diphenylmethyl)-5-fluoro-2,4-pyrimidinediamine. 1H NMR (CDCl3): δ 7.91 (d, 1H, J=2.3 Hz), 7.39–7.25 (m, 20H), 6.51 (d, 1H, J=8.2 Hz), 5.77 (d, 1H, J=7.0 Hz); LCMS: ret. time: 33.46 min.; purity: 92%; MS (m/e): 461 (MH+).

reactant | 1,1-diphenyl methylamine | C1(=CC=CC=C1)C(C1=CC=CC=C1)N | C13H13N
reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
product | N2,N4-bis(diphenylmethyl)-5-fluoro-2,4-pyrimidinediamine | C1(=CC=CC=C1)C(NC1=NC=C(C(=N1)NC(C1=CC=CC=C1)C1=CC=CC=C1)F)C1=CC=CC=C1 | C30H25FN4
